US06248765B1
2-(3-(1H-Imidazol-4-yl)propyloxy)-1-phenylethanone
5 mmol of 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol and 5 mmol of 2-bromo-1-phenylethanone are stirred for 72 hours in methylene chloride. The solvent is evaporated off under reduced pressure and the residue is refluxed for 1 hour in 30 ml of 2N HCl and 30 ml of acetone. The solvent is evaporated off under reduced pressure and triphenylmethanol is extracted using diethyl ether. The aqueous phase is alkalized with ammonia, and the crude product is extracted with diethyl ether, purified by rotatory chromatography and crystallized as hydrogen maleate from diethyl ether and ethanol.

reactant | 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | 2-bromo-1-phenylethanone | 5 mmol | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(3-(1H-Imidazol-4-yl)propyloxy)-1-phenylethanone | N1C=NC(=C1)CCCOCC(=O)C1=CC=CC=C1 | C14H16N2O2
